US06872718B1
3,5,6,7-Tetrahydro-2-(iodomethyl)-2,4,8-trimethyl-2H-furo[2,3-f]indole
3,5,6,7-Tetrahydro-2-(iodomethyl)-2,4,8-trimethyl-2H-furo[2,3-f]indole-5-carbaldehyde (3.71 g, 10 mmol) was dissolved in methanol (37 ml). To the solution was added concentrated hydrochloric acid, and stirred for 2 hours at 60° C. under argon atmosphere. The mixture was cooled to 0° C., made weakly basic with a saturated aqueous solution of sodium hydrogen carbonate, diluted with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over sodium sulfate, and the solvent was removed under reduced pressure, and this was subjected to chromatography on a small amount of silica gel with eluting with ethyl acetate. The resultant oil was crystallized from hexane to obtain 3.37 g of the title compound.

reactant | 3,5,6,7-Tetrahydro-2-(iodomethyl)-2,4,8-trimethyl-2H-furo[2,3-f]indole-5-carbaldehyde | 10 mmol, 3.71 g | ICC1(CC=2C(=C(C=3CCN(C3C2C)C=O)C)O1)C | C15H18INO2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 37 ml | CO | CH4O
solvent | water | O | H2O
product | 3,5,6,7-Tetrahydro-2-(iodomethyl)-2,4,8-trimethyl-2H-furo[2,3-f]indole | 3.37 g, Yield: 98% | ICC1(CC=2C(=C(C=3CCNC3C2C)C)O1)C | C14H18INO
